US08710242B2
6-tert-Butyl 2-ethyl 1-benzofuran-2,6-dicarboxylate
A solution of tert-butyl 4-formyl-3-hydroxybenzoate (1.2 g, 5.40 mmol) and potassium carbonate (1726 mg, 12.4 mmol) in DMF (17 ml) was admixed dropwise with ethyl bromoacetate (0.56 ml, 5.0 mmol) and stirred at 80° C., for 6 h. Then ethyl bromoacetate (0.28 ml, 2.5 mmol) was added again and the mixture was stirred at 80° C. overnight. After cooling to room temperature, the reaction mixture was added to ice-water and extracted with ethyl acetate. The organic phases were dried over sodium sulphate, filtered and concentrated to dryness under reduced pressure.

reactant | tert-butyl 4-formyl-3-hydroxybenzoate | 5.40 mmol, 1.2 g | C(=O)C1=C(C=C(C(=O)OC(C)(C)C)C=C1)O | C12H14O4
reactant | potassium carbonate | 12.4 mmol, 1726 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 5.0 mmol, 0.56 ml | BrCC(=O)OCC | C4H7BrO2
reactant | ethyl bromoacetate | 2.5 mmol, 0.28 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
product | 6-tert-Butyl 2-ethyl 1-benzofuran-2,6-dicarboxylate | O1C(=CC2=C1C=C(C=C2)C(=O)OC(C)(C)C)C(=O)OCC | C16H18O5
